US05610192
Synthesis of 3-Hydroxy-2-naphthoic (2-Hydroxy-1phenylmethylene) hydrazide (III107A)
Following the general procedure of Example 1, condensation of salicylic aldehyde and 3-hydroxy-2-naphthoic hydrazide gave a pale yellow solid (94%): mp >285° C.; 1H NMR d 11.69 (br s, 1H), 10.97 (br s, 1 H), 10.79 (s, 1 H), 8.24 (s, 1 H), 8.02 (s, 1 H), 7.45 (d, 1 H, J=8.1 Hz), 7.31 (d, 1 H, J=8.1 Hz), 7.12 (dd, 1 H, J=7.8, 0.9 Hz), 7.05 (t, 1 H, J=7.5 Hz), 6.89 (s, 1 H), 6.86 (m, 2H), 6.51 (d, 1 H, J=8.1 Hz), 6.48 (t, 1H, J=7.5 Hz); 13C NMR d 163.62, 157.54, 154.08, 148.83, 135.94, 131.64, 130.37, 129.49, 128.70, 128.33, 126.79, 125.89, 123.86, 119.99, 119.44, 118.68, 116.48, 110.63; HRMS Calcd for C18H14N2O3 :306.1004, found 306.0977; Anal. (C18H14N2O3) C, H, N.

reactant | salicylic aldehyde | C1=CC=C(C(=C1)C=O)O | C7H6O2
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (2-Hydroxy-1phenylmethylene) hydrazide | 94% | OC1=C(C=CC=C1)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C18H14N2O3
